US07425568B2
5-(2-nitrophenoxy)-2-phenylindane was prepared as described for 6-(4-methoxy-2-nitrophenoxy)-2-phenylchroman in Example 3(a) using 200 mg 2-phenylindan-5-ol and 150 mg of 1-chloro-2-nitrobenzene. 1H-NMR (400 MHz, d6-DMSO): 8.04 (dd, 1H, J 1.6, 8.3 Hz), 7.68 (ddd, 1H, J 1.6, 7.4, 8.3 Hz), 7.36-7.27 (m, 6H), 7.24-7.17 (m, 1H), 7.11 (dd, 1H, J 1.1, 8.4 Hz), 6.98 (bd, 1H, J 2.3 Hz), 6.89 (dd, 1H, J 2.3, 8.1 Hz), 3.69 (k, 1H, J 8.5 Hz), 3.28 (dd, 2H J 8.5, 15.8 Hz), 3.05-2.95 (m, 2H).

reactant | 6-(4-methoxy-2-nitrophenoxy)-2-phenylchroman | COC1=CC(=C(OC=2C=C3CCC(OC3=CC2)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C22H19NO5
reactant | 2-phenylindan-5-ol | 200 mg | C1(=CC=CC=C1)C1CC2=CC=C(C=C2C1)O | C15H14O
reactant | 1-chloro-2-nitrobenzene | 150 mg | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
product | 5-(2-nitrophenoxy)-2-phenylindane | [N+](=O)([O-])C1=C(OC=2C=C3CC(CC3=CC2)C2=CC=CC=C2)C=CC=C1 | C21H17NO3
